US08013003B2
t-Butyl methyl-(4-cyanocyclohexyl)carbamate (710 mg, 3 mmol) was dissolved in dichloromethane (20 ml) and trifluoroacetic acid (3 ml) was added. The solvent was evaporated after 2 hours, the residue was re-dissolved in a 4N HCl (3 ml) solution in dioxane and the solvent evaporated. Dichloromethane (30 ml) and NEt3 (2 ml) were added to the residue followed by a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (548 mg, 3 mmol) in dichloromethane (10 ml). After stirring the mixture for 1 hour at room temperature, the organic phase was washed with 1N HCl and conc. NaHCO3 solution, dried over magnesium sulfate, and concentrated under vacuum. The material was purified on a silica gel column eluting with ethyl acetate/chloroform (1:1) to give 170 mg of N-(cis-4-cyanocyclohexyl)-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide as a white solid and as the less polar isomer. Mp=222-223° C., 1H NMR (300 MHz, CDCl3, rotamers) δ 7.93 (d, 1H, J=9.0 Hz); 7.85 (s, 1H), 7.42 (d, J=9.0 Hz, 1H); 4.65-4.50 and 3.55-3.40 and 3.15-2.80 (m, 5H) and 2.20-1.30 ppm (m, 8H).

reactant | t-Butyl methyl-(4-cyanocyclohexyl)carbamate | 3 mmol, 710 mg | CN(C(OC(C)(C)C)=O)C1CCC(CC1)C#N | C13H22N2O2
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 3 mmol, 548 mg | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(cis-4-cyanocyclohexyl)-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide | 170 mg | C(#N)[C@H]1CC[C@H](CC1)N(C(=O)C1=CC=2C(=NON2)C=C1)C | C15H16N4O2
